US07915424B2
(E) 5-[2-(3-Cyanophenyl)-vinyl]-nicotinonitrile
Prepare essentially as described in EXAMPLE 15 using palladium(II) acetate (0.009 g, 0.04 mmol), tri-o-tolylphosphine (0.024 g, 0.08 mmol), copper (I) iodide (0.004 g, 0.02 mmol), 3-iodobenzonitrile (0.9 g, 3.93 mmol) and 5-vinylnicotinonitrile, (prepared essentially as described in PREPARATION 51), (0.715 g, 5.5 mmol) at 110° C. for 5 h. Add diethyl ether and wash with water three times. Filter the organic layer and concentrate to give the title compound (0.530g, 59%).

reactant | tri-o-tolylphosphine | 0.08 mmol, 0.024 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 3-iodobenzonitrile | 3.93 mmol, 0.9 g | IC=1C=C(C#N)C=CC1 | C7H4IN
reactant | 5-vinylnicotinonitrile | C(=C)C=1C=NC=C(C#N)C1 | C8H6N2
catalyst | palladium(II) acetate | 0.04 mmol, 0.009 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | copper (I) iodide | 0.02 mmol, 0.004 g | [Cu]I
product | 5-[2-(3-Cyanophenyl)-vinyl]-nicotinonitrile | 0.530g, 59% | C(#N)C=1C=C(C=CC1)C=CC=1C=NC=C(C#N)C1 | C15H9N3
